* INA250A2
*****************************************************************************
* (C) Copyright 2015 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: INA250A2
* Date: 25/04/2015
* Model Type: All In One
* Simulator: TINA
* Simulator Version: 9.3.100.244 SF-TI
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: 
* 
* Model Version: 1.0
* 
*****************************************************************************
* 
* Updates: 
* 
* Version 1.0 : Release to Web
* 
*****************************************************************************
* 
* Notes: 
*  This model conforms to the data sheet for the following:
*  1. VCM range
*  2. Input Bias current and Offset current, RTI
*  3. Rshunt w/temperature coefficient and package resistance
*  4. Gain
*  5. Output resistance
*  6. Output swing
*  7. Slew rate
*  8. Noise, Quiescent current
* The model’s CMRR is higher than the data sheet values.
* When running transient simulations, you may need to select the 
* Zero Initial Values option before running the sim.
* 
*****************************************************************************
**
**
.SUBCKT INA250A2 VINN VINP INN INP SHP SHN VCC GND REF OUT
*I_I2         VSN_WOCM GND DC 14uAdc 
*X_U_I2       VSP_WOCM GND CMIN GND IIB_INA250AX 
X_U_I2       VSP_WOCM GND CMIN VCC GND IIB_INA250AX  
G_G1         VSP_WOCM VSN_WOCM VINP VINN 406u
E_E1         VMID 0 VCC N30232 0.5
R_R7         SHN INN  0.00125 TC=0,0 
E_E6         VINN VSN_WOCM CMIN 0 1
E_E2         N30232 0 0 GND 1
R_R1         SHN SHP  0.002 TC=25e-6,0 
R_R8         GND VINP  1e6 TC=0,0 
X_U1         OPA_INP OPA_INN VCC GND OUT_X INA250A2_OPA
*X_U1         OPA_INP OPA_INN VCC GND OUT INA250A2_OPA 
R_R2         VINP_MID OPA_INP  4k TC=45e-6,0 
E_E7         VINP_MID VSP_WOCM VMID 0 1
R_R3         VINN_MID OPA_INN  4k TC=45e-6,0 
*I_I1         VSP_WOCM GND DC 14uAdc  
*X_U_I1       VSN_WOCM GND CMIN GND IIB_INA250AX
X_U_I1       VSN_WOCM GND CMIN VCC GND IIB_INA250AX
*
E_E3         CMIN 0 VINP N15373 0.5
R_R4         OPA_INP REF  1e6 TC=0,0 
E_E8         VINN_MID VSN_WOCM VMID 0 1
E_E4         N15373 0 0 VINN 1
R_R5         OPA_INN OUT_X  1e6 TC=0,
*R_R5         OPA_INN OUT  1e6 TC=0,0 
R_R9         VINN GND  1e6 TC=0,0 
E_E5         VINP VSP_WOCM CMIN 0 1.00000001
R_R6         SHP INP  0.00125 TC=0,0
*
S1           OUT_X OUT REF 0 VSW1
.MODEL VSW1 VSWITCH RON=1 ROFF=100e6  VOFF=18 VON=17
*
.ENDS
**
**
**
.SUBCKT INA250A2_OPA VIP VIN VDD VSS VO
XU1        VIP VIN 23 22 GNDF  INPUT
+ PARAMS: RICM = 1G RIDM = 100e6 CICM = 100f CIDM = 100f
XU2        23 20  VNOISE
+ PARAMS: NLF = 100 FLW = 0.1 NVR = 40
XU3        12 20  VOFFS
+ PARAMS: VOFF = 0
XU4        VDD VSS 22 21 GNDF  PSRR
+ PARAMS: PSRRP = 120 FPSRRP = 2 PSRRN = 120 FPSRRN = 22
XU5        21 13 GNDF  CMRR
+ PARAMS: CMRR = 150 FCMRR = 2
XU6        12 13 VDD VSS  IBIAS
+ PARAMS: IBIASP = 28f IBIASN = 27.998f
XU7        VDD VSS  IQ
+ PARAMS: IQQ = 200u
XU8        VDD VSS 12 13 14 15 GNDF  CMR
+ PARAMS: VMAXIO = 0 VMINIO = 0
XU9        14 15 11 GNDF  GBW_SLEW_SE
+ PARAMS: AOL = 180 GBW = 9.48MEG SRP = 0.2MEG SRN = 0.2MEG
XU10        11 10 GNDF  TF
XU11        VDD VSS 10 9 VIMON GNDF  VCLAMP_W_CLAW
+ PARAMS: VMAXIO = 0.1 VMINIO = 0.025
XU12        9 7 GNDF  ZOUT
XU13        7 VO VIMON  OUT_CURRENT_CLAMP
+ PARAMS: IMAX = 9m IMIN = 9m
XU14        VDD VSS VIMON  ILOAD
XU0        VDD VSS GNDF GND_FLOAT
.ENDS
*$
**************************************
**                                  **
**                                  ** 
**                                  **          
**                                  **
**************************************
.SUBCKT INPUT   VIP  VIN  VOP  VON  GNDF 
+ PARAMS: RICM = 1G RIDM = 10K CICM = 100F  CIDM = 100F
V1          VIP VOP 0
V2          VIN VON 0
C1          VOP GNDF {CICM} 
C2          VON GNDF {CICM}
C3          VOP VON {CIDM}
G1          VOP GNDF VALUE =  {V(VOP,GNDF)/RICM}
G2          VON GNDF VALUE = {V(VON,GNDF)/RICM} 
G3          VOP VON VALUE = {V(VOP,VON)/RIDM} 
.ENDS
*$
**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************
* BEGIN PROG NSE NANO VOLT/RT-HZ
.SUBCKT VNOISE  1 2 PARAMS: NLF = 10 FLW = 4  NVR = 4.6
* BEGIN SETUP OF NOISE GEN - NANOVOLT/RT-HZ
* INPUT THREE VARIABLES
* SET UP VNSE 1/F
********************
* NV/RHZ AT 1/F FREQ
* NLF
********************
* FREQ FOR 1/F VAL
* FLW
********************
* SET UP VNSE FB
* NV/RHZ FLATBAND
* NVR
********************
* END USER INPUT
* START CALC VALS
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
* END CALC VALS
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
C1 1 0 1E-15
C2 2 0 1E-15
C3 1 2 1E-15
.ENDS
*$
* END PROG NSE NANOV/RT-HZ
**************************************
**                                  **
**                                  ** 
**                                  **          
**                                  **
**************************************
.SUBCKT VOFFS VP  VN 
+ PARAMS: VOFF = 0
V1  VP  VN {VOFF}
.ENDS
*$
**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************
.SUBCKT PSRR   VDD  VSS  VI  VO  GNDF 
+ PARAMS: PSRRP = 130 FPSRRP = 1.6
+ PSRRN = 130 FPSRRN = 1.6
.PARAM PI = 3.141592
.PARAM RPSRRP = 1
.PARAM GPSRRP = {PWR(10,-PSRRP/20)/RPSRRP}
.PARAM LPSRRP = {RPSRRP/(2*PI*FPSRRP)}
.PARAM RPSRRN = 1
.PARAM GPSRRN = {PWR(10,-PSRRN/20)/RPSRRN}
.PARAM LPSRRN = {RPSRRN/(2*PI*FPSRRN)}
G1  GNDF 1 VDD GNDF {GPSRRP}
R1  1 2 {RPSRRP}
L1  2 GNDF {LPSRRP}
G2  GNDF 3 VSS GNDF {GPSRRN}
R2  3 4 {RPSRRN}
L2  4 GNDF {LPSRRN}
E1  VO VI VALUE = {V(1,GNDF) + V(3,GNDF)}
C3  VDD VSS 10P
.ENDS
*$
**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************
.SUBCKT CMRR   VI  VO  GNDF PARAMS: CMRR = 130 FCMRR = 1.6K
.PARAM PI = 3.141592
.PARAM RCMRR = 1
.PARAM GCMRR = {PWR(10,-CMRR/20)/RCMRR}
.PARAM LCMRR = {RCMRR/(2*PI*FCMRR)}
G1  GNDF 1 VI GNDF {GCMRR}
R1  1 2 {RCMRR}
L1  2 GNDF {LCMRR}
E1  VI VO 1 GNDF 1
.ENDS
*$
**************************************
**                                  **
**                                  ** 
**                                  **          
**                                  **
**************************************
.SUBCKT IBIAS VIP  VIM  VDD  VSS
+ PARAMS: IBIASP = 1e-12 IBIASN = 1e-12
IBP  VDD  VIP  {IBIASP}
IBN  VSS  VIM  {IBIASN}
.ENDS
*$
**************************************
**  				    **
**         		            ** 
**      			    **          
**     		             	    **
**************************************
.SUBCKT IQ  VDD VSS
+ PARAMS: IQQ = 1M  IOFF = 1P
*G1 VDD VSS VALUE = {IQQ + IOFF*0}
G1 VDD VSS VALUE = {MIN(130u + V(VDD,VSS)/62500,IQQ)}
.ENDS
*$
**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************
.SUBCKT CMR   VDD  VSS  VIP  VIM  VOP VOM  GNDF 
+ PARAMS: VMAX = 0 VMIN = 0
ECLAMPP  VOP GNDF VALUE = {LIMIT(V(VIP,GNDF),V(VDD,GNDF) - VMAX, V(VSS,GNDF) + VMIN)}
ECLAMPM  VOM GNDF VALUE = {LIMIT(V(VIM,GNDF),V(VDD,GNDF) - VMAX, V(VSS,GNDF) + VMIN)}
.ENDS
*$
**************************************
**                                  **
**                                  ** 
**                                  **          
**                                  **
**************************************
.SUBCKT GBW_SLEW_SE  VIP  VIM  VO  GNDF 
+ PARAMS: Aol = 100  GBW = 1Meg  SRP = 1Meg  SRN = 1Meg IT = 1M
.PARAM PI = 3.141592
.PARAM IP = {IF(SRP <= SRN,IT,IT*(SRP/SRN))}
.PARAM IN = {IF(SRN <= SRP,-IT,-IT*(SRN/SRP))}
.PARAM Cc = {IF(SRP <= SRN,IT/SRP,IT/SRN)}
.PARAM fp = {GBW/PWR(10,Aol/20)}
.PARAM Rc = {1/(2*PI*Cc*fp)}
.PARAM Gc = {PWR(10,Aol/20)/Rc}
G1          GNDF VO VALUE = {IF(V(VIP,VIM) >= 200M,IP,IF(V(VIP,VIM) <= -200M,IN,Gc*V(VIP,VIM)))}
C1          VO GNDF {Cc} IC=0
R1          VO GNDF {Rc}
.ENDS
*$
**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************
.SUBCKT  TF  VI  VO  GNDF
+ PARAMS: A = 1
E1    VO  GNDF  VI  GNDF  {A}
.ENDS
*$
**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************
.SUBCKT VCLAMP_W_CLAW  VDD  VSS  VI  VO VIMON  GNDF
+ PARAMS: VMAXIO = 0 VMINIO = 0
EPCLIP	VDD_CLP 0  VALUE = {IF(0 <= 
+ V(VIMON) & V(VIMON) <= 2.25M,V(VDD,GNDF) - 131.1111*V(VIMON) - VMAXIO,
+  IF(2.25M < V(VIMON) & V(VIMON) <= 
+ 4.76M,V(VDD,GNDF) - 121.5139*V(VIMON) - 21.5936M - VMAXIO,
+  IF(4.76M < V(VIMON) & V(VIMON) <= 
+ 6.56M,V(VDD,GNDF) - 222.2222*V(VIMON) + 457.7778M - VMAXIO,
+  IF(6.56M < V(VIMON) & V(VIMON) <= 
+ 8M,V(VDD,GNDF) - 625*V(VIMON) + 3.1 - VMAXIO,
+  IF(8M < V(VIMON) & V(VIMON) < 
+ 9M,V(VDD,GNDF) - 900*V(VIMON) + 5.3 - VMAXIO,V(VDD,GNDF) - VMAXIO)))))}
ENCLIP	VSS_CLP 0  VALUE = {IF(0 >= V(VIMON) & V(VIMON) >= 
+ -2.25M,V(VSS,GNDF) - 132*V(VIMON) + VMINIO,
+  IF(-2.25M > V(VIMON) & V(VIMON) >= 
+ -4.76M,V(VSS,GNDF) - 159.3625*V(VIMON) - 61.5657M + VMINIO,
+  IF(-4.76M > V(VIMON) & V(VIMON) >= 
+ -6.56M,V(VSS,GNDF) - 222.2222*V(VIMON) - 360.7778M + VMINIO,
+  IF(-6.56M > V(VIMON) & V(VIMON) >= 
+ -8M,V(VSS,GNDF) - 625*V(VIMON) - 3.003 + VMINIO,
+  IF(-8M > V(VIMON) & V(VIMON) > 
+ -9M,V(VSS,GNDF) - 900*V(VIMON) - 5.203 + VMINIO,V(VSS,GNDF) + VMINIO)))))}
ECLAMP  VO GNDF VALUE = {LIMIT(V(VI,GNDF), V(VDD_CLP), V(VSS_CLP))}
.ENDS
*$
**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************
.SUBCKT  ZOUT  VI  VO  GNDF
+ PARAMS: RO = 1
G1    GNDF  VO  VI  GNDF  {1/RO}
G2    VO  GNDF  VALUE = {V(VO,GNDF)/RO}
.ENDS
*$
**************************************
**                                  **
**                                  ** 
**                                  **          
**                                  **
**************************************
.SUBCKT OUT_CURRENT_CLAMP  IN  OUT  VIMON
+PARAMS: RSER = 1 IMAX = 10M  IMIN = 10M
HSENS  VIMON 0 VSENS 1
VSENS  OUTy OUT  0
GRESP  OUTx OUTy VALUE = {LIMIT(V(OUTx,OUT)/RSER,IMAX,-IMIN)}
GRESN  IN OUTx VALUE = {-V(IN,OUTx)/RSER}
.ENDS
*$
**************************************
**  				    **
**         		            ** 
**      			    **          
**     		             	    **
**************************************
.SUBCKT ILOAD  VDD VSS VIMON
G1 VDD 0 VALUE = {IF(V(VIMON) >= 0,V(VIMON),0)}
G2 0 VSS VALUE = {IF(V(VIMON) < 0,V(VIMON),0)}
.ENDS
*$
**************************************
**                                  **
**                                  ** 
**                                  **          
**                                  **
**************************************
.SUBCKT GND_FLOAT  VDD VSS GNDF 
EGNDF  GNDF 0 VALUE = {(V(VDD)+V(VSS))*0.5}
*EGNDF  GNDFx 0 VALUE = {(V(VDD)+V(VSS))*0.5}
*GGNDF  GNDFx GNDF VALUE = {V(GNDFx,GNDF)*1U}
*CGNDF  GNDF  0    10U
.ENDS
**************************************
**                                  **
**                                  ** 
**                                  **          
**                                  **
**************************************
.SUBCKT IIB_INA250AX IN OUT CM VCC GND
EVCC N1 GND VALUE = {(1 + SGN(V(VCC,GND) - 1.0))/2}
GIIB IN OUT VALUE = {IF(V(CM,GND) > 2.5,15u*V(N1,GND),0)}
.ENDS
